US05589492
3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanoic Acid
A mixture of methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanoate (0.94 g), 10% aqueous sodium hydroxide solution (5 mL) and methanol (15 mL) was stirred at room temperature for 1.75 hrs. The mixture was then diluted with water (400 mL) and washed with dichloromethane (300 mL). The aqueous layer was acidified to pH 2 with concentrated hydrochloric acid and extracted with ethyl acetate (2×250 mL). The combined ethyl acetate extracts were washed with water (500 mL), brine (500 mL), dried (MgSO4) and evaporated. The residue was crystallised from dichloromethane-hexane to afford the title compound, mp 142°-3° C.

reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanoate | 0.94 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)Cl | C20H21ClN2O4
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | methanol | 15 mL | CO | CH4O
solvent | water | 400 mL | O | H2O
product | 3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanoic Acid | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)O)Cl | C19H19ClN2O4
